US07407946B2
Hydrochloric acid (10.4 ml of a 4.0 N solution in 1,4-dioxane, 41.5 mmol) was added, dropwise to a solution of di(tert-butyl) ((2S)-1-(3-((4-((5-(2-((3-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl phosphate (4.49 g, 5.92 mmol) in 1,4-dioxane (180 ml) upon which a light yellow solid precipitated from the reaction mixture. The resulting heterogeneous reaction mixture was stirred for a further 20 hours before the precipitate was collected, washed with 1,4-dioxane (80 ml) and acetonitrile (2×100 ml) and dried in vacuo to yield ((2S)-1-(3-((4-((5-(2-((3-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl dihydrogen phosphate bis-hydrochloride as a light yellow solid (4.40 g, 97% yield):

reactant | Hydrochloric acid | Cl | ClH
reactant | di(tert-butyl) ((2S)-1-(3-((4-((5-(2-((3-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl phosphate | 5.92 mmol, 4.49 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OC[C@H]1N(CCC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=CC(=CC=C1)F)OC | C36H48FN6O7PS
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 180 ml | O1CCOCC1 | C4H8O2
product | ((2S)-1-(3-((4-((5-(2-((3-fluorophenyl)amino)-2-oxoethyl)-1,3-thiazol-2-yl)amino)-6-methoxyquinazolin-7-yl)oxy)propyl)pyrrolidin-2-yl)methyl dihydrogen phosphate bis-hydrochloride | 4.40 g, 97% yield | Cl.Cl.P(=O)(OC[C@H]1N(CCC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC=1SC(=CN1)CC(=O)NC1=CC(=CC=C1)F)OC)(O)O | InChI=1S/C28H32FN6O7PS.2ClH/c1-40-24-13-22-23(14-25(24)41-10-4-9-35-8-3-7-20(35)16-42-43(37,38)39)31-17-32-27(22)34-28-30-15-21(44-28)12-26(36)33-19-6-2-5-18(29)11-19;;/h2,5-6,11,13-15,17,20H,3-4,7-10,12,16H2,1H3,(H,33,36)(H2,37,38,39)(H,30,31,32,34);2*1H/t20-;;/m0../s1
